US07834051B2
rac-4-[(4R,5R)-5-ethyl-4-hydroxy-3,3-dimethyl-2-oxopyrrolidin-1-yl]-2-methoxybenzonitrile
Using 4-(5-ethyl-3,3-dimethyl-2,4-dioxopyrrolidin-1-yl)-2-methoxybenzonitrile (120 mg) and lithium tri(sec-butyl)borohydride-THF solution (0.629 mL, 1 mol/L), and in the same manner as in Example 5, the title compound was obtained as a colorless solid (yield: 93 mg, 77%).

reactant | 4-(5-ethyl-3,3-dimethyl-2,4-dioxopyrrolidin-1-yl)-2-methoxybenzonitrile | 120 mg | C(C)C1C(C(C(N1C1=CC(=C(C#N)C=C1)OC)=O)(C)C)=O | C16H18N2O3
reactant | lithium tri(sec-butyl)borohydride THF | 1 mol/L, 0.629 mL | C(C)(CC)[BH-](C(C)CC)C(C)CC.[Li+].C1CCOC1
product | rac-4-[(4R,5R)-5-ethyl-4-hydroxy-3,3-dimethyl-2-oxopyrrolidin-1-yl]-2-methoxybenzonitrile | C(C)[C@@H]1[C@@H](C(C(N1C1=CC(=C(C#N)C=C1)OC)=O)(C)C)O | C16H20N2O3
